US07566712B2
To a mixture of 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine (200 mg, 0.43 mmol), 1-methyl-1H-imidazole (42 mg, 0.51 mmol), CuI (161 mg, 0.86 mmol), MgO (21 mg, 051 mmol), and PPh3 (22 mg, 0.086 mmol) in dioxane add Pd(OAc)2 (5 mg, mg, 0.021 mmol). Purge the reaction mixture for 10 minutes with dry N2. Heat the mixture at 150° C. for 24 hours, cool to room temperature, and partition between water and EtOAc. Dry the solution (Na2SO4), concentrate under reduced pressure. Purify the residue by flash column chromatography eluting with DCM:MeOH:NH4OH (95:5:1) to afford 4-(3-chloro-4-fluoro-phenyl)-2-(1-methyl-1H-imidazol-2-yl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine. 1H NMR (2HCl salt, 300 MHz, DMSO-d6): δ3.35 (m, 4H); 4.01 (m, 4H); 4.31 (s, 3H, NCH3); 7.23 (m, 1H, Ar—H); 7.63 (m, 2H); 7.89 (s, 1H); 7.97 (s, 1H); 8.11 (m, 1H); 8.43 (m, 1H); 8.54 (m, 1H); 8.66 (m, 1H).

reactant | 2-chloro-4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | 0.43 mmol, 200 mg | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C20H15Cl2F4N5
reactant | 1-methyl-1H-imidazole | 0.51 mmol, 42 mg | CN1C=NC=C1 | C4H6N2
reactant | PPh3 | 0.086 mmol, 22 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.86 mmol, 161 mg | [Cu]I
catalyst | Pd(OAc)2 | 0.021 mmol, 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(3-chloro-4-fluoro-phenyl)-2-(1-methyl-1H-imidazol-2-yl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C=1N(C=CN1)C | C24H20ClF4N7
